US06498165B1
2-[(S)-1-(3-(phenylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]-pyrimidine
2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine (32.2 mg) was dissolved in CH2Cl2 (2 mL), then triethylamine (62 μL), aniline (25 μL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (62.7 mg) and 4-dimethylaminopyridine (˜1 mg) were added in that order. Mixture stirred 16 h at room temperature then 2 mL more CH2Cl2 added (reaction had gone dry overnight) and thin layer chromatography showed complete conversion of starting material. Concentrated under reduced pressure then purified by silica gel chromatography (98:2 CH2Cl2:MeOH) to yield 16.9 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ 8.48 (br s, 1H); 8.48 (br s, 1H); 8.41 (d, J=5.5 Hz, 1H); 8.00 (s, 1H); 7.75-7.84 (m, 3H); 7.61-7.66 (m, 3H); 7.51 (t, J=7.8 Hz, 1H); 7.33-7.41 (m, 4H); 7.17 (t, J=7.5 Hz, 1H); 6.81 (d, J=5.5 Hz, 1H); 5.73 (br s, 1H); 5.28 (br s, 1H); 1.68 (d, J=6.8 Hz, 3H). Mass Spectrum (ESI): m/e 435.1 (M+1).

reactant | 2-[(S)-1-(3-carboxyphenyl)ethylamino]-4-[benzimidazol-1-yl]pyrimidine | 32.2 mg | C(=O)(O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H17N5O2
reactant | triethylamine | 62 μL | C(C)N(CC)CC | C6H15N
reactant | aniline | 25 μL | NC1=CC=CC=C1 | C6H7N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 62.7 mg | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | ˜1 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-[(S)-1-(3-(phenylaminocarbonyl)phenyl)ethylamino]-4-[benzimidazol-1-yl]-pyrimidine | 16.9 mg | C1(=CC=CC=C1)NC(=O)C=1C=C(C=CC1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C26H22N6O
